Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]#[C:3][O:4][C:5][C:7]#[C:8][H:9].[H:6],4.44795261606
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.44753664494
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]([C:3]([H:4])[C:11]([H:12])([H:13])[H:14])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.32775038288
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:9]([C:8]#[C:2])([H:10])[C:11]([H:12])[H:13].[H:3][C:7]=[C:4]([H:5])[H:6],6.16897194585
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],3.70421769733
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],1.01407062701
[C:1][C:2]#[C:3][C:6]([H:7])=[C:9]([H:10])[H:11].[C:4]([H:5])[H:8]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.39223775414
[C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-2.23693796221
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.57068160754
[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.30542850316
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],6.24858105173
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.694966181499
[H:1][C:2][C:7]([O:6][C:5]#[C:3][H:4])([H:8])[H:9]>>[H:1][C:2]1[C:3]([H:4])=[C:5][O:6][C:7]1([H:8])[H:9],-3.7905889516199993
[H:1][C:2]([H:3])([H:4])/[C:5]([C:6]([H:7])([H:8])[O:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-0.000281958360574
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14],4.13136692423
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.9213391623
[O:1][C:2]([H:3])=[C:4]=[O:5]>>[C:4]=[O:5].[O:1]=[C:2][H:3],0.628239024731
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.19238016211
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.67400606255
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8](=[O:9])[C:10]([H:11])([H:12])[H:13],1.18465597469
[C:1]#[C:2][C:3](=[C:4]=[O:5])[O:6][H:7]>>[C:1]#[C:2][C:4][O:5][H:7].[C:3]=[O:6],1.25138919123
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.41709758869
[C:3]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-5.18529334814
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],0.84003148619
[C:1]#[C:3][C:5]([H:6])([H:7])[H:8].[C:2]([H:4])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.64126282718
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.77005523904
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-10.69893168
[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]1=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],0.403522279999
